US05340831
Preparation of 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-(4-cyanophenethyl)pyrrolidine
A mixture contaiing 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine (0.6 g--g see Preparation 13), anhydrous potassium carbonate (0.5 g) and acetonitrile (20 ml) was heated under reflux for 1.5 hours. On cooling to room temperature, water (60 ml) was added and the mixture extracted with dichloromethane (3×50 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give a gum which was purified by column chromatography on silica eluting with dichloromethane containing methanol (0% up to 6%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a colourless foam, yield, 0.25 g.

reactant | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine | 0.6 g | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CNCC1 | C18H20N2O
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 60 ml | O | H2O
product | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-(4-cyanophenethyl)pyrrolidine | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(CC1)CCC1=CC=C(C=C1)C#N | C27H27N3O
